### PR TITLE
[Merged by Bors] - feat(FieldTheory/RatFunc): add RatFunc.toFractionRingAlgEquiv

### PR DESCRIPTION
**Pull request by ShouxinZhang**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 1]
```diff
@@ -525,6 +527,21 @@ theorem ofFractionRing_algebraMap (x : K[X]) :
     ofFractionRing (algebraMap _ (FractionRing K[X]) x) = algebraMap _ _ x := by
   rw [← mk_one, mk_one']
 
+def toFractionRingRAlgEquiv {R : Type*} [CommSemiring R]
+  [IsDomain K] [Algebra R K]:
```
Comment (kckennylau) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]:
```suggestion
def toFractionRingAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K] :
```

We usually just write `algEquiv` without saying the `R` in front. Also, I think there is already an `IsDomain` instance above. Also, I changed `R` to explicit because it cannot be inferred from the arguments.

**Comment by kckennylau** [comment]
The following comment might be more involved, but I think you should change the `Algebra R K` assumption to `Algebra R K[X]`, which will also shorten the proof. The reason is that we only have a general instance rule `Algebra R K[X] -> Algebra R (RatFunc K)`, so technically it is more general if you change the assumption as I mentioned (because when someone uses this, there might be an instance already on `Algebra R K[X]` that does not match with the one coming from `Algebra R K`, and this will create what's called a "diamond" problem where there are two different instances with the same name).

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 2]
```diff
@@ -525,6 +527,21 @@ theorem ofFractionRing_algebraMap (x : K[X]) :
...
+  RatFunc K ≃ₐ[R] FractionRing K[X] := {
+    RatFunc.toFractionRingRingEquiv K with
+    commutes' := fun r => by
```
Comment (plp127) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: You can make this a bit shorter:
```suggestion
    commutes' r := by
```

**Comment by ShouxinZhang** [comment]
> Thanks for the PR. Unfortunately the mathlib tooling does not support PRs from forks, could you please reopen a PR from a branch (asking on Zulip for permissions if you don't have them yet). See [contribution guideline: making a pull request](https://leanprover-community.github.io/contribute/index.html#making-a-pull-request-pr).

Thanks so much for your review! My apologies for the delay. I had shelved this PR after the automated Mathlib checks failed and hadn't looked at it since. I only just saw the email notification for new comment today, which brought me back here. Let me give it another shot.

**Comment by plp127** [comment]
The PR workflow has recently changed, and we now do support PRs from forks. Can you try merging master?

**Comment by ShouxinZhang** [comment]
> The PR workflow has recently changed, and we now do support PRs from forks. Can you try merging master?

It feels like things have gotten a bit complicated here. As this PR was opened several months ago, it's proving quite difficult to resume working on it. I suspect I might need to reopen a new PR against the 4.21 version. Please give me a bit more time to look into it.

**Comment by ShouxinZhang** [comment]
> The following comment might be more involved, but I think you should change the `Algebra R K` assumption to `Algebra R K[X]`, which will also shorten the proof. The reason is that we only have a general instance rule `Algebra R K[X] -> Algebra R (RatFunc K)`, so technically it is more general if you change the assumption as I mentioned (because when someone uses this, there might be an instance already on `Algebra R K[X]` that does not match with the one coming from `Algebra R K`, and this will create what's called a "diamond" problem where there are two different instances with the same name).

Thanks for the review! I've made the changes based on your suggestions.

**Comment by ShouxinZhang** [comment]
A silly newbie question, how do I know if my PR will be successfully merged into Mathlib?

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 3]
```diff
@@ -523,6 +524,17 @@ theorem ofFractionRing_algebraMap (x : K[X]) :
...
+/--
+The equivalence between `RatFunc K` and the field of fractions of `K[X]`
+-/
+def toFractionRingRAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K[X]]:
+  RatFunc K ≃ₐ[R] FractionRing K[X] := {
+    RatFunc.toFractionRingRingEquiv K with
+    commutes' r := by
+      change (RatFunc.mk (algebraMap R K[X] r) 1).toFractionRing = _
+      rw [mk_one']; rfl
+  }
```
Comment (eric-wieser) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: More idiomatic as:
```suggestion
    RatFunc K ≃ₐ[R] FractionRing K[X] where
  __ := RatFunc.toFractionRingRingEquiv K with
  commutes' r := by
    change (RatFunc.mk (algebraMap R K[X] r) 1).toFractionRing = _
    rw [mk_one']; rfl
```

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 4]
```diff
@@ -523,6 +524,17 @@ theorem ofFractionRing_algebraMap (x : K[X]) :
     ofFractionRing (algebraMap _ (FractionRing K[X]) x) = algebraMap _ _ x := by
   rw [← mk_one, mk_one']
 
+/--
+The equivalence between `RatFunc K` and the field of fractions of `K[X]`
+-/
+def toFractionRingRAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K[X]]:
```
Comment (kckennylau) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]:
```suggestion
@[simps apply]
def toFractionRingAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K[X]] :
```

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 3 above)
Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: Thanks for your review! Changes have been applied.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 4 above)
Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: Thanks for your review! Changes have been applied. But I use the `@[simps!]` instead of your original edit, since the `@[simps apply]` will appear the system error lint.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: It looks like you didn't actually push the change. Note you can also apply the changes directly from github, and then `git pull` to get them locally.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: You should use `@[simps! apply]` then instead.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 3 above)
Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: > It looks like you didn't actually push the change. Note you can also apply the changes directly from github, and then `git pull` to get them locally.

Sorry, I was working on GitPod and had some issues. Now I am waiting for my Mac to compile the 6000+ mathlibs and have completed the new commit.

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 5]
```diff
@@ -523,6 +524,17 @@ theorem ofFractionRing_algebraMap (x : K[X]) :
     ofFractionRing (algebraMap _ (FractionRing K[X]) x) = algebraMap _ _ x := by
   rw [← mk_one, mk_one']
 
+/--
+The equivalence between `RatFunc K` and the field of fractions of `K[X]`
+-/
+@[simps! apply]
+def toFractionRingRAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K[X]]:
```
Comment (kckennylau) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]:
```suggestion
def toFractionRingAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K[X]]:
```

Comment (kckennylau) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]:
```suggestion
def toFractionRingAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K[X]] :
```

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 6]
```diff
@@ -523,6 +524,17 @@ theorem ofFractionRing_algebraMap (x : K[X]) :
...
+  RatFunc K ≃ₐ[R] FractionRing K[X] where
+    __ := RatFunc.toFractionRingRingEquiv K
+    commutes' r := by
+      change (RatFunc.mk (algebraMap R K[X] r) 1).toFractionRing = _
+      rw [mk_one']; rfl
```
Comment (kckennylau) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]:
```suggestion
    RatFunc K ≃ₐ[R] FractionRing K[X] where
  __ := RatFunc.toFractionRingRingEquiv K
  commutes' r := by
    change (RatFunc.mk (algebraMap R K[X] r) 1).toFractionRing = _
    rw [mk_one']; rfl
```
You got the indentation backward.

Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: Thank you for checking the format! Edited.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 3 above)
Comment (plp127) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: > > It looks like you didn't actually push the change. Note you can also apply the changes directly from github, and then `git pull` to get them locally.
> 
> Sorry, I was working on GitPod and had some issues. Now I am waiting for my Mac to compile the 6000+ mathlibs and have completed the new commit.

You should never have to compiler mathlib yourself! Use `lake exe cache get` to fetch the cache.

File: Mathlib/FieldTheory/RatFunc/Basic.lean [hunk 7]
```diff
@@ -523,6 +524,17 @@ theorem ofFractionRing_algebraMap (x : K[X]) :
     ofFractionRing (algebraMap _ (FractionRing K[X]) x) = algebraMap _ _ x := by
   rw [← mk_one, mk_one']
 
+/--
+The equivalence between `RatFunc K` and the field of fractions of `K[X]`
+-/
+@[simps! apply]
+def toFractionRingRAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K[X]] :
```
Comment (kckennylau) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: Why are you keeping the `R` after the third time?

Comment (kckennylau) [inline Mathlib/FieldTheory/RatFunc/Basic.lean]: The `K` is implicit here and occurs before `R`. I would make both arguments explicit, and have the order be `R K`.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 3 above)
Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: > > > It looks like you didn't actually push the change. Note you can also apply the changes directly from github, and then `git pull` to get them locally.
> > 
> > 
> > Sorry, I was working on GitPod and had some issues. Now I am waiting for my Mac to compile the 6000+ mathlibs and have completed the new commit.
> 
> You should never have to compiler mathlib yourself! Use `lake exe cache get` to fetch the cache.

Sometimes even I done `lake exe cache get`, then I try `lake build`, the lake system still build from zero to end. [{ }]

Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: A usually good way which I know is delete the `.lake` folder, then reopen the vscode and `lake build` again. But for convenience, I finally choose wait (maybe my brain is too lazy)

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 7 above)
Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: The implicit problem have been edited. But the order question seems a bit tricky. I still don't know how to adjust the order of existing variables.

Comment (plp127) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]:
```suggestion
def toFractionRingAlgEquiv (R : Type*) [CommSemiring R] [Algebra R K[X]] :
```

Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: Sorry my fault, edited.

Comment (kckennylau) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: You'll need to define K again.

Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: > You'll need to define K again.

I have some reservations about editing new variables. The order `K, R` I think not bad.

File: Mathlib/FieldTheory/RatFunc/Basic.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: If you run `lake exe cache get`, you need to stop lean running in vscode first. You can do this by running `pkill lake` first.

Comment (ShouxinZhang) [reply Mathlib/FieldTheory/RatFunc/Basic.lean]: Got it! I will try it at next time.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
